US07645789B2
To a stirred solution of 2-amino-3-bromo-5-nitrobenzonitrile (2.4 g, 10 mmol) in dry Et3N (60 mL) was added CuI (380 mg, 5% mol) and Pd(PPh3)2Cl2 (470 mg, 5% mol) at room temperature. 3,3-dimethyl-but-1-yne (2.1 g, 25 mmol) was added dropwise to the mixture at room temperature. The reaction mixture was stirred at 80° C. for 10 h. The reaction mixture was filtered and the filtrate was poured into ice (60 g), extracted with ethyl acetate. The phases were separated and the organic phase was dried over Na2SO4. The solvent was removed under vacuum to obtain the crude product, which was purified by column chromatography (2-10% EtOAc in petroleum ether) to obtain 2-amino-3-(3,3-dimethylbut-1-ynyl)-5-nitrobenzonitrile (1.7 g, 71%). 1H NMR (300 MHz, CDCl3) δ 8.28 (d, J=2.7 Hz, 1H), 8.27 (d, J=2.7 Hz, 1H), 5.56 (br s, 2H), 1.37 (s, 9H).

reactant | 2-amino-3-bromo-5-nitrobenzonitrile | 10 mmol, 2.4 g | NC1=C(C#N)C=C(C=C1Br)[N+](=O)[O-] | C7H4BrN3O2
reactant | 3,3-dimethyl-but-1-yne | 25 mmol, 2.1 g | CC(C#C)(C)C | C6H10
solvent | Et3N | 60 mL | CCN(CC)CC | C6H15N
catalyst | CuI | 380 mg | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 470 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-amino-3-(3,3-dimethylbut-1-ynyl)-5-nitrobenzonitrile | 1.7 g, 71% | NC1=C(C#N)C=C(C=C1C#CC(C)(C)C)[N+](=O)[O-] | C13H13N3O2
